US06121477
60.17 g of sodium ethoxide were dissolved in 1127 ml of ethanol. To this solution, 336.4 g of diethyl malonate and 119.42 g of [(3,4-methylendioxy)phenyl]methyl chloride were added and the mixture was refluxed for 3 hours. After the reaction was completed, the solvent was removed under reduced pressure and water was added to the residue. After extraction with ethyl acetate, the ethyl acetate was dried with sodium sulfate anhydride. After removing the solvent under reduced pressure and purification with distillation, 181.1 g of 2-[[(3,4-methylenedioxy)phenyl]methyl]malonic acid diethyl ester were obtained.

reactant | sodium ethoxide | 60.17 g | [O-]CC.[Na+]
reactant | diethyl malonate | 336.4 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | [(3,4-methylendioxy)phenyl]methyl chloride | 119.42 g | C1OC=2C=C(C=CC2O1)CCl | C8H7ClO2
solvent | ethanol | 1127 ml | C(C)O | C2H6O
product | 2-[[(3,4-methylenedioxy)phenyl]methyl]malonic acid diethyl ester | 181.1 g | C(C)OC(C(C(=O)OCC)CC1=CC2=C(C=C1)OCO2)=O | C15H18O6
